US04462923
In an analogous manner to that described in Example 3, a mixture of 3.2 g of 3-methoxy-2-(trans-4-propylcyclohexyl)acrolein, 4.1 g of trans-4-pentylcyclohexanecarboxamidine hydrochloride and 50 ml of absolute methanol is treated with a sodium methylate solution prepared from 0.53 g of sodium in 20 ml of absolute methanol. The reaction duration, working-up and chromatography are as described in Example 3. The pure fractions (in accordance with thin-layer chromatography) resulting in the chromatography are combined and recrystallized twice from hexane. There is obtained pure 5-(trans-4-propylcyclohexyl)-2-(trans-4-pentylcyclohexyl)pyrimidine; m.p. 98° C., cl.p. 178° C. (smectic).

reactant | 3-methoxy-2-(trans-4-propylcyclohexyl)acrolein | 3.2 g | COC=C(C=O)[C@@H]1CC[C@H](CC1)CCC | C13H22O2
reactant | trans-4-pentylcyclohexanecarboxamidine hydrochloride | 4.1 g | Cl.C(CCCC)[C@@H]1CC[C@H](CC1)C(=N)N
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 0.53 g | [Na] | Na
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 5-(trans-4-propylcyclohexyl)-2-(trans-4-pentylcyclohexyl)pyrimidine | C(CC)[C@@H]1CC[C@H](CC1)C=1C=NC(=NC1)[C@@H]1CC[C@H](CC1)CCCCC | C24H40N2
